US08871756B2
Methyl (2E)-3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]prop-2-enoate
The mixture of 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine (1.5 g, 4.86 mmol), acrylic acid methyl ester (0.88 ml, 9.7 mmol), triethylamine (6 mL) and N,N-dimethylformamide (6 mL), bis(tri-tert-butylphosphine)palladium(0) (124 mg, 0.243 mmol) was heated with stirring in a 20 mL of microwave process vial for 30 minutes at 100° C. under argon. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (20 mL×3). The organic layers were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo to give a residue which was purified by flash column to afford 1.41 g of product as a white solid (yield was 81%). MS obsd. (ESI+) [(M+H)+] 359.

reactant | 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | 4.86 mmol, 1.5 g | ClC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C19H17ClN2
reactant | acrylic acid methyl ester | 9.7 mmol, 0.88 ml | COC(C=C)=O | C4H6O2
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.243 mmol, 124 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | 30 mL | O | H2O
product | Methyl (2E)-3-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]prop-2-enoate | 1.41 g, yield was 81% | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)/C=C/C(=O)OC | C23H22N2O2
